US07151097B2
The product obtained from the last step was dissolved in 200 ml of ethyl acetate and 200 ml of water. Sodium dithionite was added until the disappearance of 1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-nitroso-1H-pyrazole-3-carboxylic acid ethyl ester was confirmed by TLC (ethyl acetate/hexane, 50/50). Then the organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate and the solvent was removed in vacuo. The red solid obtained was further purified by plug filtration (silica, ethyl acetate/hexane, 50/50) to give 4-amino-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester I-4a (21.86 g, 76%). MS: 376.1 (M+1)+.

reactant | Sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-nitroso-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1N=O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C18H13Cl2N3O3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | 4-amino-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1N)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C18H15Cl2N3O2
